US05604229
2-Acetamido-2-[3-(3-undecyloxyphenyl)propyl]-1,3-propanediol (1.4 g) was dissolved in 50 ml of methanol and 16.6 ml of a 1N aqueous sodium hydroxide solution was added thereto. The mixture was refluxed under heating for 3 hours. The mixture was poured into ice water and neutralized with dilute hydrochloric acid. The solvent was distilled away and chloroform was added to the residue for extraction. The chloroform layer was washed and dried. The solvent was distilled away and the residue was recrystallized from diisopropyl ether-hexane to give 0.9 g of 2-amino-2-[3-(3-undecyloxyphenyl)propyl]-1,3-propanediol as white crystals.

reactant | 2-Acetamido-2-[3-(3-undecyloxyphenyl)propyl]-1,3-propanediol | 1.4 g | C(C)(=O)NC(CO)(CO)CCCC1=CC(=CC=C1)OCCCCCCCCCCC | C25H43NO4
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-2-[3-(3-undecyloxyphenyl)propyl]-1,3-propanediol | 0.9 g | NC(CO)(CO)CCCC1=CC(=CC=C1)OCCCCCCCCCCC | C23H41NO3
